US05756804
A mixture of 50.0 g (289 mmol) of 4-bromofluorobenzene, 43.3 g (318 mmol) of isobutyl methanephosphonite, 43.8 ml (318 mmol) of triethylamine, 1.64 g (0.29 mmol,1 mol %) of bis(dibenzylideneacetone)-palladium and 1.50 g (0.58 mmol, 2 mol %) of triphenylphosphine was heated for 20 hours at 100° C. under an inert gas atmosphere. At 23° C., the solution was filtered off from the ammonium salt formed and the filtrate was evaporated under reduced pressure. Fractional distillation under reduced pressure gave 54.60 g (83% of theory) of isobutyl 4-fluorophenylmethylphosphinate having a boiling point of 83° C./0.08 mbar.

reactant | 4-bromofluorobenzene | 289 mmol, 50.0 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | isobutyl methanephosphonite | 318 mmol, 43.3 g | CP(OCC(C)C)[O-]
reactant | triethylamine | 318 mmol, 43.8 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(dibenzylideneacetone)-palladium | 0.29 mmol, 1.64 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | triphenylphosphine | 0.58 mmol, 1.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | isobutyl 4-fluorophenylmethylphosphinate | 54.60 g, 83% | FC1=CC=C(C=C1)CP(OCC(C)C)=O | C11H16FO2P
